US07045551B2
To a solution of 2-(3-bromo-phenyl)-oxirane (2.5 g, 12.6 mmol) in CH2Cl2 (20 mL) was added azidotrimethylsilane (2.5 mL, 18.84 mmol), followed by aluminium isopropoxide (256 mg, 1.26 mmol). The reaction mixture was stirred at room temperature for 18 h. Sodium potassium tartrate 1M (30 mL) was added, the aqueous layer was extracted with CH2Cl2, and the organic layers were dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo, and the crude compound is purified by flash chromatography (10% EtOAc/Hex) to provide 2-azido-2-(3-bromo-phenyl)-ethanol (876 mg, 29%). To a solution of 2-azido-2-(3-bromo-phenyl)-ethanol (876 mg) in THF (10 mL) was added polymer supported triphenylphosphine (3 mmol/g) (2 g, 6 mmol), and the mixture was heated to 60° C. for 30 min. The polymer was then filtered and washed with CH2Cl2. The polymer was suspended in THF (20 mL) and concentrated NH4OH (10 mL) was added, and this mixture was agitated for 24 h. The polymer was filtered and the liquid phase was evaporated in vacuo to afford the title compound (110 mg, 14%).

reactant | 2-(3-bromo-phenyl)-oxirane | 12.6 mmol, 2.5 g | BrC=1C=C(C=CC1)C1OC1 | C8H7BrO
reactant | azidotrimethylsilane | 18.84 mmol, 2.5 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | aluminium isopropoxide | 1.26 mmol, 256 mg | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | Sodium potassium tartrate | 1M, 30 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-azido-2-(3-bromo-phenyl)-ethanol | 876 mg, 29% | N(=[N+]=[N-])C(CO)C1=CC(=CC=C1)Br | C8H8BrN3O
